US05128355
Part C: Preparation of 4-Chloro-2-heptyl-5-hydroxymethylimidazole
To a solution of 2-heptyl-5-(hydroxymethyl)-imidazole (10.0 g, 51 mmol) in EtOH1,4-dioxane (1:1; 600 mL) was added N-chlorosuccinimide (7.9 g, 59 mmol). After being stirred for 1 hour at room temperature the solvents were removed on a rotary evaporator an the solid residue was partitioned between ethyl acetate and water (300 mL each). The organic phase was washed with water (150 mL), dried (MgSO4), filtered and concentrated to afford 12.4 g crude product. Recrystallization (1:1 EtOAc/hexane, 60 mL) gave 5.7 g (45%) of white crystals; m.p. 134°-140°. NMR (200 MHz, CDCl3 /CD3OD) δ 4.50 (s, 2H); 4.00-3.80 (br s, 2H); 2.65 (t 2H, 5Hz); 1.80-1.60 (m, 2H); 1.40-1.20 (m, 8); 0.90-0.80 (m, 3H). Mass Spec. 230.

reactant | 2-heptyl-5-(hydroxymethyl)-imidazole | 51 mmol, 10.0 g | C(CCCCCC)C=1NC(=CN1)CO | C11H20N2O
reactant | N-chlorosuccinimide | 59 mmol, 7.9 g | ClN1C(CCC1=O)=O | C4H4ClNO2
product | 4-Chloro-2-heptyl-5-hydroxymethylimidazole | 5.7 g, 45% | ClC=1N=C(NC1CO)CCCCCCC | C11H19ClN2O
